US09357776B2
Synthesis of N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide
To 18.24 g (0.16 mol) of trifluoroacetic acid, 8.76 g (0.12 mol) of dimethylformamide was added. While the mixture was heated to 65° C., 12.26 g (0.08 mol) of phosphorus oxychloride was added to this mixture. Trifluoroacetyl chloride generated therefrom was bubbled into a solution which was obtained by dissolving 9.4 g (0.1 mol) of 2-aminopyridine in 80 mL of N-methylpyrrolidinone, and which was cooled to −15° C., and the mixture was stirred for 2 hours. While being cooled to −10° C., the reaction liquid was neutralized by adding 14.9 g (0.22 mol) of sodium ethoxide powder thereto. To this reaction liquid, 13.8 g (0.1 mol) of potassium carbonate powder and 16.2 g (0.1 mol) of 2-chloro-5-chloromethylpyridine were added, and distillation was conducted under reduced pressure (36 hPa) at 50 to 60° C. for 2 hours. To the reaction liquid, 20 mL of methanol was added, and the mixture was added to 400 ml of water heated to 50° C., while the vessel was also washed. After the mixture was stirred at room temperature for 30 minutes, the crystals were filtered, and washed with 100 mL of water and 50 mL of toluene. The obtained crystals were dried under reduced pressure at 45° C. Thus, 22.5 g of the target compound was obtained (Percentage Yield: 71.4%).

reactant | trifluoroacetic acid | 0.16 mol, 18.24 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | dimethylformamide | 0.12 mol, 8.76 g | CN(C=O)C | C3H7NO
reactant | phosphorus oxychloride | 0.08 mol, 12.26 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-aminopyridine | 0.1 mol, 9.4 g | NC1=NC=CC=C1 | C5H6N2
reactant | sodium ethoxide | 0.22 mol, 14.9 g | [O-]CC.[Na+]
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-chloromethylpyridine | 0.1 mol, 16.2 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | N-methylpyrrolidinone | 80 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 400 ml | O | H2O
product | N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide | 22.5 g, Yield: 71.4% | ClC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C(F)(F)F)=O | C13H9ClF3N3O
